US07504408B2
ii) Preparation of 2-{[3-(7-amino-6-chloro-1,3-benzodioxol-4-yl)prop-2-yn-1-yl]oxy}-N,N-dimethylacetamide:
Bis(triphenylphosphine)palladium(II) chloride (0.236 g), cuprous iodide (0.96 g) and diisopropylamine (0.47 ml) were added to a stirred solution of 5-chloro-7-iodo-1,3-benzodioxol-4-amine (0.500 g) and N,N-dimethyl-2-(prop-2-yn-1-yloxy)acetamide (0.474 g) in ethyl acetate (8 ml) cooled to −20° C. under a nitrogen atmosphere; the resultant mixture was stirred for 4 hr at ambient temperature. The reaction mixture was filtered through Celite, ethyl acetate (12 ml) was then added and the resultant solution washed with saturated aqueous sodium bicarbonate (20 ml). The aqueous layer was re-extracted with ethyl acetate (20 ml). The combined organic extracts were washed with brine (20 ml), dried over sodium sulphate and then evaporated. The residue was purified by column chromatography on silica using ethyl acetate as eluent. There was thus obtained the title compound as a solid (0.428 g). NMR Spectrum: (CDCl3) 2.96 (s, 3H), 3.02 (s, 3H), 4.06 (s, 2H), 4.31 (s, 2H), 4.52 (s, 2H), 6.02 (s, 2H), 6.89 (s, 1H); Mass Spectrum: M+H+ 311 and 313.

reactant | diisopropylamine | 0.47 ml | C(C)(C)NC(C)C | C6H15N
reactant | 5-chloro-7-iodo-1,3-benzodioxol-4-amine | 0.500 g | ClC1=C(C2=C(OCO2)C(=C1)I)N | C7H5ClINO2
reactant | N,N-dimethyl-2-(prop-2-yn-1-yloxy)acetamide | 0.474 g | CN(C(COCC#C)=O)C | C7H11NO2
solvent | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
catalyst | Bis(triphenylphosphine)palladium(II) chloride | 0.236 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-{[3-(7-amino-6-chloro-1,3-benzodioxol-4-yl)prop-2-yn-1-yl]oxy}-N,N-dimethylacetamide | 0.428 g | NC1=C(C=C(C2=C1OCO2)C#CCOCC(=O)N(C)C)Cl | C14H15ClN2O4
